US07767854B2
Under nitrogen atmosphere, to a suspension of isopropyltriphenylphosphonium iodide (16.2 g) in anhydrous tetrahydrofuran (70 ml) was added 2.7 M butyl lithium solution (in hexane, 14.5 ml) dropwise under ice-cooling. After stirring the mixture at room temperature for 30 minutes, a solution of 1,4-cyclohexadione monoethyleneketal (5.58 g) in anhydrous tetrahydrofuran (30 ml) was added dropwise thereto, and the mixture was stirred at the same temperature for 1 hour. To the reaction mixture was added water (20 ml), and the insoluble precipitate was filtrated off through Celite. The filtrate was concentrated under reduced pressure, and the residue was separated with a separating funnel between ethyl acetate and water. The organic layer was washed with brine, dried over magnesium sulfate, and then the solvent was removed in vacuo. The residue was purified by a silica gel chromatography (eluent: hexane/ethyl acetate=50/1 to 20/1) to give 1.2 g of 8-isopropylidene-1,4-dioxaspiro[4.5]decane.

reactant | isopropyltriphenylphosphonium iodide | 16.2 g | [I-].C(C)(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | butyl lithium | 2.7 M, 14.5 ml | C(CCC)[Li]
reactant | water | 20 ml | O | H2O
reactant | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 8-isopropylidene-1,4-dioxaspiro[4.5]decane | 1.2 g | C(C)(C)=C1CCC2(OCCO2)CC1 | C11H18O2
